US07271253B1
N-(4-Aminobenzoyl)-β-alanine (100 g) was suspended in water (1300 mL) and methanesulfonic acid (115.4 g) was added to this mixture. The mixture was cooled to 10° C. and a solution of sodium nitrite (34.46 g) in water (200 mL) was added at a rate such that the temperature stayed below 12° C. The mixture was stirred for 30 min and added to an ice-cold solution of salicylic acid (69.65 g), sodium hydroxide (40.35 g) and sodium carbonate (106.9 g) in 1 L water at 7-12° C. After 3 hours at 10° C., the mixture was heated to 60-65° C. and acidified to pH 4.0-4.5 by the addition of hydrochloric acid. After a further 3 hours at 60-65° C., the mixture was cooled to ambient temperature, filtered, washed with water and dried in vacuo to yield Balsalazide. Yield ca. 90%. Balsalazide was transformed into its disodium salt in ca. 85% yield by treatment with aqueous NaOH solution followed by crystallization from n-propanol/methanol.

reactant | N-(4-Aminobenzoyl)-β-alanine | 100 g | NC1=CC=C(C(=O)NCCC(=O)O)C=C1 | C10H12N2O3
reactant | methanesulfonic acid | 115.4 g | CS(=O)(=O)O | CH4O3S
reactant | sodium nitrite | 34.46 g | N(=O)[O-].[Na+]
reactant | salicylic acid | 69.65 g | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | sodium hydroxide | 40.35 g | [OH-].[Na+]
reactant | sodium carbonate | 106.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1300 mL | O | H2O
solvent | water | 200 mL | O | H2O
solvent | water | 1 L | O | H2O
product | Balsalazide | Yield ca. 90% | C1=CC(=CC=C1C(=O)NCCC(=O)O)N=NC=2C=CC(=C(C2)C(=O)O)O | C17H15N3O6
